US06794400B2
4-(Bicyclo[2.2.1]hept-5-en-2-yl)-1-(2-methoxy-4-dimethylaminobenzylidene)thiosemicarbazide
The title compound was prepared from a mixture of N1-bicyclo[2.2.1]hept-5-en-2-ylhydrazine-1-carbothioamide (100 mg, 0.6 mmol) and 2-methoxy-4-dimethylaminobenzaldehyde (97 mg, 0.72 mmol) similar to Example 3 and isolated as a yellow solid (60 mg, 29%). 1H NMR (CDCl3): 9.08 (s, 1H), 8.05 (s, 1H), 7.65 (brs, 1H), 7.45 (brs, 1H), 6.27 (brs, 1H), 6.22 (ddd, J=8.1, 5.1, 2.7 Hz, 2H), 6.00 (s, 1H), 4.32 (m, 1H), 3.82 (s, 3H), 3.03 (s, 6H), 2.93 (s, 1H), 1.85 (m, 1H), 1.64 (m, 1H), 1.54 (m, 1H), 1.41 (m, 1H).

reactant | N1-bicyclo[2.2.1]hept-5-en-2-ylhydrazine-1-carbothioamide | 0.6 mmol, 100 mg | C12C(CC(C=C1)C2)NC(=S)NN | C8H13N3S
reactant | 2-methoxy-4-dimethylaminobenzaldehyde | 0.72 mmol, 97 mg | COC1=C(C=O)C=CC(=C1)N(C)C | C10H13NO2
product | 4-(Bicyclo[2.2.1]hept-5-en-2-yl)-1-(2-methoxy-4-dimethylaminobenzylidene)thiosemicarbazide | C12C(CC(C=C1)C2)NC(NN=CC2=C(C=C(C=C2)N(C)C)OC)=S | C18H24N4OS
